US04673676
A mixture of ethyl 10-(2,3-dimethylpentanoylamino)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (520 mg) and 1N aqueous sodium hydroxide (3.6 ml) in aqueous methanol (25 ml) was stirred at room temperature for 2 days. Methanol was added to the reaction mixture until nearly all the precipitate was dissolved. The solution was concentrated to a half volume under reduced pressure and then filtered. The filtrate was diluted with water and allowed to stand in a refrigerator. The resultant precipitate was collected, washed with water and dried to give sodium 10-(2,3-dimethylpentanoylamino)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (210 mg).

reactant | ethyl 10-(2,3-dimethylpentanoylamino)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 520 mg | CC(C(=O)NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C)C(CC)C | C23H27N3O4
reactant | sodium hydroxide | 1N, 3.6 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | sodium 10-(2,3-dimethylpentanoylamino)-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 210 mg | CC(C(=O)NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)[O-])C)C(CC)C.[Na+] | InChI=1S/C21H23N3O4.Na/c1-5-11(2)13(4)19(25)23-14-6-7-15-12(3)10-24-18(16(15)8-14)22-9-17(20(24)26)21(27)28;/h6-11,13H,5H2,1-4H3,(H,23,25)(H,27,28);/q;+1/p-1
